US05164497
Preparation of 1,4-Bis(2-hydroxyethyl)piperazine Dimethyl Carbonate
A total of 180.0 grams (2.0 moles) of dimethyl carbonate, 17.4 grams (0.1 mole) of 1,4-bis(2-hydroxyethyl)piperazine, and 1.0 gram (0.007 mole) of potassium carbonate were combined in a 250 milliliter round bottom flask equipped with a straight distillation head and a magnetic stirrer. The flask contents were heated to reflux under a nitrogen atmosphere. Initial reaction temperatures at reflux were 80° C. at the head and 88° C. in the kettle. A methanol/dimethyl carbonate azeotrope was removed overhead over a period of 7.5 hours. After this time, the flask contents were cooled and the kettle contents were analyzed by capillary gas chromatography (FlD) using a DB-1701 column. The 1,4-bis(2-hydroxyethyl)piperazine was totally converted to a mixture of 1,4-bis(2-hydroxyethyl)piperazine methyl carbonate and 1,4-bis(2-hydroxyethyl)piperazine dimethyl carbonate. The kettle contents were heated for an additional period of 2.5 hours after which the reaction was stopped. The kettle contents were concentrated in vacuo at 20 mm Hg and a temperature of 60° C. using a rotary evaporator. A total of 26.6 grams of material which was about 88 percent pure in 1,4-bis(2-hydroxyethyl)piperazine dimethyl carbonate was obtained. The major by-products were 1,4-bis(2-hydroxyethyl)piperazine methyl carbonate (ca. 1.5 percent) and di-[1,4-bis(2-hydroxyethyl)piperazine]carbonate (ca. 9.9 percent).

reactant | dimethyl carbonate | 2.0 moles, 180.0 grams | C(OC)(OC)=O | C3H6O3
reactant | 1,4-bis(2-hydroxyethyl)piperazine | 0.1 mole, 17.4 grams | OCCN1CCN(CC1)CCO | C8H18N2O2
reactant | potassium carbonate | 0.007 mole, 1.0 gram | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-bis(2-hydroxyethyl)piperazine methyl carbonate | COC(O)=O.OCCN1CCN(CC1)CCO
product | 1,4-Bis(2-hydroxyethyl)piperazine Dimethyl Carbonate | COC(OC)=O.OCCN1CCN(CC1)CCO | InChI=1S/C8H18N2O2.C3H6O3/c11-7-5-9-1-2-10(4-3-9)6-8-12;1-5-3(4)6-2/h11-12H,1-8H2;1-2H3
